US06329313B1
(2,3,5,6-Tetrafluorophenyloxymethyl)triethoxysilane
3.32 g (20 mmol) of 2,3,5,6-tetrafluorophenol are dissolved in 50 ml of toluene, and 8 ml of n-butyllithium (2.5 M in hexane) are added at 0° C. After warming to room temperature, the solution is stirred for a further 2 hours. Then 4.3 g of (chloromethyl)triethoxysilane (20 mmol) are added dropwise and the reaction mixture is boiled under reflux for 6 hours. The resulting suspension is filtered and the solvent is stripped off in vacuo. The pale yellow liquid which remains is subjected to fractional distillation.

reactant | 2,3,5,6-tetrafluorophenol | 20 mmol, 3.32 g | FC1=C(C(=C(C=C1F)F)F)O | C6H2F4O
reactant | n-butyllithium | 2.5 M, 8 ml | C(CCC)[Li]
reactant | (chloromethyl)triethoxysilane | 20 mmol, 4.3 g | ClC[Si](OCC)(OCC)OCC | C7H17ClO3Si
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (2,3,5,6-Tetrafluorophenyloxymethyl)triethoxysilane | FC1=C(C(=C(C=C1F)F)F)OC[Si](OCC)(OCC)OCC | C13H18F4O4Si
